US07348322B2
1-(4-Methyl-1-oxo-1H-benzo[d][1,2]oxazin-6-ylamino)-3-[1-(2-trifluoromethyl-phenyl)-cyclobutyl]propan-2-one oxime
A solution of 29 mg of 4-methyl-6-{2-oxo-3-[1-(2-trifluoromethyl-phenyl)-cyclobutyl]-propylamino}-benzo[d][1,2]oxazin-1-one in EtOH (8 ml) was treated with 1 ml of 50% NH2OH HCl solution in H2O and NaOAc (15 mg). The solution was heated under reflux for 2 h and evaporated. The residue was purified by column chromatography on silica gel (10%-40% EtOAc-hexane) to yield 2 mg of product.

reactant | 4-methyl-6-{2-oxo-3-[1-(2-trifluoromethyl-phenyl)-cyclobutyl]-propylamino}-benzo[d][1,2]oxazin-1-one | 29 mg | CC1=NOC(C2=C1C=C(C=C2)NCC(CC2(CCC2)C2=C(C=CC=C2)C(F)(F)F)=O)=O | C23H21F3N2O3
reactant | NH2OH HCl | 1 ml | NO.Cl
solvent | EtOH | 8 ml | CCO | C2H6O
solvent | H2O | O | H2O
solvent | NaOAc | 15 mg | CC(=O)[O-].[Na+]
product | 1-(4-Methyl-1-oxo-1H-benzo[d][1,2]oxazin-6-ylamino)-3-[1-(2-trifluoromethyl-phenyl)-cyclobutyl]propan-2-one oxime | 2 mg | CC1=NOC(C2=C1C=C(C=C2)NCC(CC2(CCC2)C2=C(C=CC=C2)C(F)(F)F)=NO)=O | C23H22F3N3O3
